US04452788
A mixture of 5,6-diamino-1,3-dipropyl-2,4-(1H,3H)pyrimidinedione (16.0 g, 0.07 moles), 4-sulfobenzoic acid monopotassium salt (17.0 g, 0.0707 moles) and water (250 ml) is prepared, and the pH adjusted to 5.0 by the addition of 10% potassium hydroxide. To this solution is added ethyl-3-(3-dimethylaminopropyl)carbodiimide (13.6 g, 0.0707 moles) in one portion, and the pH maintained at 5.0±0.5 by the dropwise addition of 4 N hydrochloric acid. When the pH stabilizes, the reaction mixture is treated with sodium hydroxide (100 ml, 50%), boiled under reflux for ten minutes, treated with activated carbon, and filtered warm. The resulting solution is chilled in ice, treated with hydrochloric acid (12 N, 1350 ml), and filtered. The solids are dried, recrystallized from methanol, and dried at 78° to yield 5.12 grams of 4-(1,3-dipropyl-2,3,6,7-tetrahydro-2,6-dioxo-1H-purin-8-yl)benzenesulfonic acid potassium salt, mp greater than 360°.

reactant | 5,6-diamino-1,3-dipropyl-2,4-(1H,3H)pyrimidinedione | 0.07 moles, 16.0 g | NC=1C(N(C(N(C1N)CCC)=O)CCC)=O | C10H18N4O2
reactant | 4-sulfobenzoic acid monopotassium salt | 0.0707 moles, 17.0 g | [K+].S(=O)(=O)(O)C1=CC=C(C(=O)[O-])C=C1
reactant | potassium hydroxide | [OH-].[K+]
reactant | ethyl-3-(3-dimethylaminopropyl)carbodiimide | 0.0707 moles, 13.6 g | C(C)N=C=NCCCN(C)C | C8H17N3
reactant | hydrochloric acid | 4 N | Cl | ClH
reactant | sodium hydroxide | 100 ml | [OH-].[Na+]
solvent | water | 250 ml | O | H2O
product | 4-(1,3-dipropyl-2,3,6,7-tetrahydro-2,6-dioxo-1H-purin-8-yl)benzenesulfonic acid potassium salt | 5.12 grams | [K+].C(CC)N1C(N(C=2N=C(NC2C1=O)C1=CC=C(C=C1)S(=O)(=O)[O-])CCC)=O | InChI=1S/C17H20N4O5S.K/c1-3-9-20-15-13(16(22)21(10-4-2)17(20)23)18-14(19-15)11-5-7-12(8-6-11)27(24,25)26;/h5-8H,3-4,9-10H2,1-2H3,(H,18,19)(H,24,25,26);/q;+1/p-1
